US08067445B2
Step 3: (5-Chloro-2′-ethylaminomethyl-5′-methoxy-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 33, Step 4, using the following starting materials: (5-chloro-2′-formyl-5′-methoxy biphenyl-3-yl)-acetic acid methyl ester and ethylamine (2M in THF).

reactant | (5-chloro-2′-formyl-5′-methoxy biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)Cl)C1=C(C=CC(=C1)OC)C=O)=O | C17H15ClO4
reactant | ethylamine | 2M | C(C)N | C2H7N
product | (5-Chloro-2′-ethylaminomethyl-5′-methoxy-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)Cl)C1=C(C=CC(=C1)OC)CNCC)=O | C19H22ClNO3
